US08278316B2
6-((4-Chlorophenyl)ethynyl)-3-(4-(2-hydroxy-2-methylpropoxy)-3-methoxyphenyl)pyrimidin-4(3H)-one
A mixture of 6-chloro-3-(4-(2-hydroxy-2-methylpropoxy)-3-methoxyphenyl)pyrimidin-4(3H)-one Part A of Procedure 11 (30 mg, 0.092 mmol), tributyl((4-chlorophenyl)-ethynyl)stannane (79 mg, 0.185 mmol), copper (I) iodide (5.28 mg, 0.028 mmol), and palladiumtetrakis (16 mg, 0.014 mmol) in DMF (1 mL) was stirred under nitrogen at 55° C. for 3 hours. The reaction was cooled to RT, diluted with CH2Cl2, washed with water, sat. NaHCO3, dried (Na2SO4), and concentrated to afford the crude product. The residue was purified using ISCO flash chromatography (silica gel/hexanes-ethyl acetate 100:0 to 0:100 gradient). The product was re-purified using HPLC (C18 column/10:90 to 90:10 MeOH—H2O) to afford the desired product 6-((4-chlorophenyl)ethynyl)-3-(4-(2-hydroxy-2-methylpropoxy)-3-methoxyphenyl)pyrimidin-4(3H)-one J-2 (12.4 mg, 0.028 mmol, 30.0% yield) as a yellow solid. LC/MS 425 (M+H)+, tR 0.95 min (method 5); 1H NMR (400 MHz, CDCl3) δ 8.14-8.17 (1H, m), 7.55 (2H, d), 7.39 (2H, d), 7.01 (1H, d), 6.85-6.93 (2H, m), 6.75 (1H, s), 3.89 (3H, s), 3.88 (2H, s), 1.37 (6H, s).

reactant | 6-chloro-3-(4-(2-hydroxy-2-methylpropoxy)-3-methoxyphenyl)pyrimidin-4(3H)-one | ClC1=CC(N(C=N1)C1=CC(=C(C=C1)OCC(C)(C)O)OC)=O | C15H17ClN2O4
reactant | tributyl((4-chlorophenyl)-ethynyl)stannane | 0.185 mmol, 79 mg | C(CCC)[Sn](C#CC1=CC=C(C=C1)Cl)(CCCC)CCCC
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
catalyst | copper (I) iodide | 0.028 mmol, 5.28 mg | [Cu]I
catalyst | palladiumtetrakis | 0.014 mmol, 16 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 6-((4-chlorophenyl)ethynyl)-3-(4-(2-hydroxy-2-methylpropoxy)-3-methoxyphenyl)pyrimidin-4(3H)-one | 0.028 mmol, 12.4 mg, 30.0% yield | ClC1=CC=C(C=C1)C#CC1=CC(N(C=N1)C1=CC(=C(C=C1)OCC(C)(C)O)OC)=O | C23H21ClN2O4
